US06288120B1
A solution of trans-7-[methanesulfonyl-(4-styryl-benzyl)-amino]-heptanoic acid ethyl ester (0.60 g) in MeOH (5 mL) and EtOAc (50 mL) was added to 10% Pd/carbon (0.2 g). The reaction mixture was placed on a Parr hydrogenator and was hydrogenated for 20 h at 50 psi. The reaction mixture was filtered through celite and concentrated in vacuo to afford 7-[methanesulfonyl-(4-phenethyl-benzyl)-amino]-heptanoic acid ethyl ester (0.60 g). 1H NMR (400 MHz, CDCl3) δ 7.30-7.10 (m, 9H), 4.32 (s, 2H), 4.10 (q, 2H), 3.12 (t, 2H), 2.90 (s, 4H), 2.79 (s, 3H), 2.25 (t, 2H), 1.60-1.45 (m, 4H), 1.30-1.19 (m, 7H).

reactant | trans-7-[methanesulfonyl-(4-styryl-benzyl)-amino]-heptanoic acid ethyl ester | 0.60 g | C(C)OC(CCCCCCN(CC1=CC=C(C=C1)\C=C\C1=CC=CC=C1)S(=O)(=O)C)=O | C25H33NO4S
solvent | MeOH | 5 mL | CO | CH4O
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
catalyst | Pd carbon | 0.2 g | [Pd].[C]
product | 7-[methanesulfonyl-(4-phenethyl-benzyl)-amino]-heptanoic acid ethyl ester | 0.60 g | C(C)OC(CCCCCCN(CC1=CC=C(C=C1)CCC1=CC=CC=C1)S(=O)(=O)C)=O | C25H35NO4S
